US06552012B2
3-Chloro-5-ethenyloxypyridine
Thionyl chloride (58.6 g, 493 mmol) was added to a mixture of 3-chloro5-(2-hydroxyethoxy)pyridine (14.5 g, 82.1 mmol) and tetrahydrofuran (100 ml). The mixture was stirred for 1 h at 50° C. The mixture was evaporated. Potassium hydroxide (9.0 g, 164 mmol) and tert-butanol (100 ml) were added and the mixture was stirred for 3 days at 100° C. The solvent was evaporated. Water (150 ml) was added and the mixture was extracted twice with diethyl ether (100 ml). Yield 6.77 g, 53%.

reactant | Thionyl chloride | 493 mmol, 58.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro5-(2-hydroxyethoxy)pyridine | 82.1 mmol, 14.5 g | ClC=1C=NC=C(C1)OCCO | C7H8ClNO2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | Potassium hydroxide | 164 mmol, 9.0 g | [OH-].[K+]
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | 3-Chloro-5-ethenyloxypyridine | ClC=1C=NC=C(C1)OC=C | C7H6ClNO
